data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202200847_sup_1.json
{"doi": "10.1002_adsc.202200847_sup_1", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical transformation of styrene-type substrates studied by cyclic voltammetry to identify anodic oxidation potentials of substrate, mediator, and intermediates.", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation: substrates 1a, 4a, 7a, 9a and the mediator Et4NOTs are oxidized at the anode; CV identifies oxidation onsets (1a: 1.14 V; 4a: 1.49 V; 7a: 1.22 V with shifts upon addition of Et4NOTs and H2SO4; 9a: 1.53 V) and cathodic features for 1a (-0.46, -0.90 V) and 4a (-2.06 V).", "key_intermediates": [{"name": "substrate-derived radical cation (from anodic SET on styrene/arene substrate)", "smiles": null, "role": "reactive"}, {"name": "tosyloxyl/oxidized mediator species from Et4NOTs", "smiles": null, "role": "transient"}], "electron_flow": "The anode performs single-electron oxidation of the styrenyl substrate (and/or the OTs mediator), generating a radical cation/oxidized mediator that propagates the reaction; CV peaks indicate accessible oxidation events at ~1.1–1.5 V vs SCE, with reductive features for some substrates at negative potentials.", "rate_determining_step": null, "probe_reagents": [{"name": "2,4,6-collidine", "smiles": "Cc1cc(C)nc(C)c1", "purpose": "redox_probe", "observation": "CV of 1a + 2,4,6-collidine shows altered oxidation/reduction features (oxidation onset ~1.14 V; reductive peaks at -0.46 and -0.90 V), consistent with base-assisted oxidation of 1a."}, {"name": "Et4NOTs", "smiles": "CC[N+](CC)(CC)CC.Cc1ccc(S(=O)(=O)[O-])cc1", "purpose": "redox_probe", "observation": "Addition to 7a shifts/enhances anodic features (1.07, 1.22, 1.39, 1.89 V), indicating mediator oxidation and interaction with substrate."}, {"name": "H2SO4", "smiles": "OS(=O)(=O)O", "purpose": "redox_probe", "observation": "Further addition to 7a + Et4NOTs modifies the CV response, suggesting protonation affects redox behavior."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "Only cyclic voltammetry data (Figure S1) is provided on this page; CVs were recorded in 0.1 M Bu4NPF6 in anhydrous DCE (for 1a) or MeCN (for 4a, 7a, 9a) with glassy carbon working, Pt counter, and 3 M KCl Ag/AgCl reference electrodes at 100 mV/s, with potentials converted to SCE by subtracting 0.04 V. No radical traps, KIE, DFT, or isolated intermediates are presented on the supplied page."}
